US08809389B2
c) Synthesis of 5-(but-2-ynyloxy)-2,3-dihydrobenzofuran
Following the same procedure as in Example 2), a mixture of 4.0 g (0.029 moles) of 5-hydroxy-2,3-dihydrobenzofuran, 4.0 g (0.029 moles) of anhydrous potassium carbonate in ml 25 of acetone was added with 3.9 g (0.029 moles) of 1-bromo-2-butyne. The mixture was heated to reflux for 6 hrs. After cooling to room temperature, the mixture was filtered and the filtrate evaporated u.v (20° C./ 21 mbar). The residue so obtained was purified by chromatography on silica column (eluant n-hexane/ethyl acetate 5/1 (v/v))

reactant | 5-hydroxy-2,3-dihydrobenzofuran | 0.029 moles, 4.0 g | OC=1C=CC2=C(CCO2)C1 | C8H8O2
reactant | potassium carbonate | 0.029 moles, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-butyne | 0.029 moles, 3.9 g | BrCC#CC | C4H5Br
solvent | acetone | CC(=O)C | C3H6O
product | 5-(but-2-ynyloxy)-2,3-dihydrobenzofuran | C(C#CC)OC=1C=CC2=C(CCO2)C1 | C12H12O2
